US07585874B2
7-Bromo-2-(5-methyl-3-phenyl-isoxazol-4-yl)-imidazo[1,2-a]pyridine
As described for Example 2, 4-(bromoacetyl)-5-methyl-3-phenylisoxazole (commercially available) (2.0 g, 7.2 mmol) was converted, using 2-amino-4-bromopyridine instead of 2-amino-3-methylpyridine, to the title compound (824 mg, 33%) which was obtained as a light yellow foam. MS: m/e=354.1/355.9 [M+H]+.

reactant | 4-(bromoacetyl)-5-methyl-3-phenylisoxazole | BrCC(=O)C=1C(=NOC1C)C1=CC=CC=C1 | C12H10BrNO2
reactant | 2-amino-4-bromopyridine | NC1=NC=CC(=C1)Br | C5H5BrN2
product | 7-Bromo-2-(5-methyl-3-phenyl-isoxazol-4-yl)-imidazo[1,2-a]pyridine | 824 mg, 33% | BrC1=CC=2N(C=C1)C=C(N2)C=2C(=NOC2C)C2=CC=CC=C2 | C17H12BrN3O
